US04994479
A mixture of 8 g of 4-hydroxy-3-nitrobenzaldehyde, 16 g of 1,3-propanediol, a catalytic amount of pyridinium p-toluenesulfonic acid and 250 ml of toluene was azeotropically dehydrated with heating under reflux. The reaction mixture was cooled, washed with water, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was recrystallized from toluene-n-hexane to obtain 9.2 g of 4-(1,3-dioxan-2-yl)-2-nitrophenol.

reactant | 4-hydroxy-3-nitrobenzaldehyde | 8 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | 1,3-propanediol | 16 g | C(CCO)O | C3H8O2
reactant | pyridinium p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C.[NH+]1=CC=CC=C1
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,3-dioxan-2-yl)-2-nitrophenol | 9.2 g | O1C(OCCC1)C1=CC(=C(C=C1)O)[N+](=O)[O-] | C10H11NO5
